US08222416B2
A solution of 2-(3-methyl-1-m-tolylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.30 g, 4.70 mmol) in tetrahydrofuran (20 mL) and methanol (40 mL) was treated with 10% palladium on carbon (260 mg). The reaction was stirred at 25° C. under hydrogen atmosphere for 2 d. The reaction mixture was filtered and washed with tetrahydrofuran (2×15 mL). The filtrate was concentrated in vacuo. Silica gel column chromatography (300-400 mesh, 11% ethyl acetate/petroleum ether) afforded 2-(3-methyl-1-m-tolylbutyl)-1H-pyrrolo[2,3-b]pyridine (1.07 g, 81.3%) as light oil: 1H NMR (300 MHz, d6-DMSO): δ ppm 11.54 (s, 1H), 8.09 (d, 1H, J=3.6 Hz), 7.80 (d, 1H, J=7.5 Hz), 7.19-7.16 (m, 3H), 6.98-6.94 (m, 2H), 6.26 (d, 1H, J=1.5 Hz), 4.13 (t, 1H, J=8.1 Hz), 2.27 (s, 3H), 2.09-2.05 (m, 1H), 1.86-1.81 (m, 1H), 1.41-1.36 (m, 1H), 0.90 (s, 3H), 0.89 (s, 3H.

reactant | 2-(3-methyl-1-m-tolylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 4.70 mmol, 1.30 g | CC(C=C(C=1C=C(C=CC1)C)C1=CC=2C(=NC=CC2)N1)C | C19H20N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 260 mg | [Pd] | Pd
product | 2-(3-methyl-1-m-tolylbutyl)-1H-pyrrolo[2,3-b]pyridine | 1.07 g, 81.3% | CC(CC(C=1C=C(C=CC1)C)C1=CC=2C(=NC=CC2)N1)C | C19H22N2
